US06063806
4,6-Dimethylindole (130 g) was dissolved in Et2O (130 ml), and oxalyl chloride (23.0 g) was dropwise added at 0° C. The mixture was stirred at room temperature for 5 hr, and Et2O was evaporated under reduced pressure. EtOH (200 ml) was added to the residue and the mixture was stirred at room temperature for 15 hr. EtOH was evaporated under reduced pressure. The residue was dissolved in CHCl3 (200 ml). After washing with water, the mixture was dried over anhydrous sodium sulfate. CHCl3 was evaporated under reduced pressure. The obtained residue was added to a suspension of LiAlH4 (17.0 g) in Et2O (200 ml), which was followed by refluxing for 2 hr. The reaction mixture was poured into ice water and extracted with AcOEt (200 ml). The AcOEt layer was washed with water and dried over anhydrous sodium sulfate. AcOEt was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: CHCl3 /MeOH=50/1-10/1) to give 13.0 g of 3-(2-hydroxyethyl)-4,6-dimethylindole.

reactant | 4,6-Dimethylindole | 130 g | CC1=C2C=CNC2=CC(=C1)C | C10H11N
reactant | oxalyl chloride | 23.0 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | Et2O | 130 ml | CCOCC | C4H10O
product | 3-(2-hydroxyethyl)-4,6-dimethylindole | 13.0 g | OCCC1=CNC2=CC(=CC(=C12)C)C | C12H15NO
